US08071586B2
A) 3-[Benzyloxycarbonyl-(2-hydroxy-ethyl)-amino]-propionic acid tert-butyl ester
6.11 g (100 mmol) of ethanolamine were cooled (0° C.), treated with 14.52 ml (100 mmol) of ter-butyl-acrylate and stirred 15 min at this temperature. During warming up to room temperature the reaction started and was kept with cooling at 25-30° C. and then stirred 18 h at room temperature. The oil was dissolved in 500 ml of tetrahydrofuran and 500 ml of water, 27.42 (110 mmol) of N-(benzyloxycarbonyloxy)succinimide were added at 0° C. followed by 27.88 ml (200 mmol) of triethlamine. The reaction was stirred at room temperature over 3 h, then partitioned between 10% aq. potassium hydrogensulfate solution and diethyl ether (3×). The organic phases were washed with 10% aq. potassium hydrogensulfate solution, sat. aq. sodium hydrogencarbonate solution, 10% aq. sodium chloride solution, dried over Na2SO4 evaporated and purified by flash silica gel column (n-heptane/ethyl acetate 4:1 to 1:1) to yield 27.53 g (85%) of the title compound as light yellow oil. MS: 324.2 (MH+).

reactant | ethanolamine | 100 mmol, 6.11 g | C(O)CN | C2H7NO
reactant | ter-butyl-acrylate | 100 mmol, 14.52 ml | C(C)(C)(C)OC(C=C)=O | C7H12O2
reactant | N-(benzyloxycarbonyloxy)succinimide | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
reactant | triethlamine | 200 mmol, 27.88 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | water | 500 ml | O | H2O
product | 3-[Benzyloxycarbonyl-(2-hydroxy-ethyl)-amino]-propionic acid tert-butyl ester | 27.53 g, 85% | C(C)(C)(C)OC(CCN(CCO)C(=O)OCC1=CC=CC=C1)=O | C17H25NO5
